US08609644B2
6α-Vinylandrostane-3,17-dione (II-ak)
The title compound II-ak was prepared in 92% yield from 3,3:17,17-bis(ethylendioxy)-6α-vinylandrostane by the procedure described above for the preparation of 6α-cyanoandrostane-3,17-dione (II-ac, Prepn. 3). The combined organic extracts were washed with H2O, dried over Na2SO4 and evaporated to dryness. 1H-NMR (300 MHz, acetone-d6, ppm from TMS): δ 5.51 (m, 1H), 4.97 (m, 2H), 2.53-0.82 (m, 21H), 1.14 (s, 3H), 0.98 (s, 3H),

reactant | 17,17-bis(ethylendioxy)-6α-vinylandrostane | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1C[C@@H](C3CCCC[C@]3(C)[C@H]1CC4)C=C | C25H38O4
reactant | 6α-cyanoandrostane-3,17-dione | C(#N)[C@H]1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC12)=O)C)=O | C20H27NO2
product | 6α-Vinylandrostane-3,17-dione | 92% yield | C(=C)[C@H]1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC12)=O)C)=O | C21H30O2
